US07381719B2
5-(2-Chloro-4-(pentylaminomethyl)phenoxy)pyridine-2-carboxamide
Using a method similar to Example 405, using 5-(2-chloro-4-formylphenoxy)pyridine-2-carboxamide (0.0388 g, 0.140 mmol) and amylamine (0.012 g, 0.140 mmol) gives the title compound (0.0314 g, 64.3%): TOF MS ES+ 348.1 (M+H)+, HRMS calcd for C18H23N3O2Cl 348.1479 (M+H)+, found 348.1456, time 0.39 min; HPLC [YMC-Pack Pro C-18 (150×4.6 mm, S-5 microm), 0.1% TFA/acetonitrile in 0.1% TFA/water at 1.0 mL/min, 20-99% over 23 min], tR=7.6 min, 100% purity.

reactant | 5-(2-chloro-4-formylphenoxy)pyridine-2-carboxamide | 0.140 mmol, 0.0388 g | ClC1=C(OC=2C=CC(=NC2)C(=O)N)C=CC(=C1)C=O | C13H9ClN2O3
reactant | amylamine | 0.140 mmol, 0.012 g | C(CCCC)N | C5H13N
product | 5-(2-Chloro-4-(pentylaminomethyl)phenoxy)pyridine-2-carboxamide | 0.0314 g, 64.3% | ClC1=C(OC=2C=CC(=NC2)C(=O)N)C=CC(=C1)CNCCCCC | C18H22ClN3O2
